US05965730
To a suspension of lithium aluminum hydride (7.75 g) in tetrahydrofuran (200 ml) is gradually added dropwise a solution of 3-(3,4-dimethoxyphenyl)-L-alanine methyl ester (12.2 g) in tetrahydrofuran (100 ml) at 0° C. The reaction mixture is stirred at 0° C. for 30 minutes, and then thereto are added dropwise water (7.7 ml), 10% aqueous sodium hydroxide solution (7.7 ml) and water (23.1 ml). The reaction mixture is stirred at room temperature overnight, and filtered through a cerite pad. The filtrate is concentrated to give (2S)-2-amino-3-(3,4-dimethoxyphenyl)-1-propanol (10.8 g) as an brown oily product.

reactant | lithium aluminum hydride | 7.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3,4-dimethoxyphenyl)-L-alanine methyl ester | 12.2 g | COC([C@@H](N)CC1=CC(=C(C=C1)OC)OC)=O | C12H17NO4
reactant | water | 7.7 ml | O | H2O
reactant | sodium hydroxide | 7.7 ml | [OH-].[Na+]
reactant | water | 23.1 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (2S)-2-amino-3-(3,4-dimethoxyphenyl)-1-propanol | 10.8 g | N[C@H](CO)CC1=CC(=C(C=C1)OC)OC | C11H17NO3
